US09056859B2
Step J: 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carbaldehyde
A solution of 6-fluoro-5-iodo-N-methoxy-N-methyl-3,4-dihydro-1H-isochromene-1-carboxamide (700 mg, 0.2 mmol) in 30 mL of anhydrous THF was cooled to −30° C. and then DIBAL-H (0.3 mmol) was added. The mixture was stirred at −30° C. for 1 hours. The reaction was quenched with water, and extracted with DCM. The orgainc layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was used for the next step without purification.

reactant | 6-fluoro-5-iodo-N-methoxy-N-methyl-3,4-dihydro-1H-isochromene-1-carboxamide | 0.2 mmol, 700 mg | FC=1C(=C2CCOC(C2=CC1)C(=O)N(C)OC)I | C12H13FINO3
reactant | DIBAL-H | 0.3 mmol | CC(C)C[AlH]CC(C)C
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carbaldehyde | FC=1C(=C2CCOC(C2=CC1)C=O)I | C10H8FIO2
